US04703106
A solution of 10.00 g of BOC-Tyr(Bzl)-OH dissolved in 50 ml of dichloromethane was mixed with 6.53 g of H-Pro-OBzl.HCl. To this mixture, under cooling at -5° C., 4.93 ml of WSC was added, followed by stirring at -5° C. for one hour and at room temperature overnight. The reaction mixture was concentrated under reduced pressure, the residue was mixed by shaking with ethyl acetate and 1N hydrochloric acid and separated into liquid layers. The ethyl acetate layer was washed successively twice with 1N hydrochloric acid, twice with saturated aqueous sodium chloride, three times with 5% aqueous sodium hydrogen carbonate and twice with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain 14.46 g (yield: 96.1%) of BOC-Tyr(Bzl)-Pro-OBzl as oily product. Rf1 =0.71.

reactant | BOC-Tyr(Bzl)-OH | 10.00 g | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C21H25NO5
reactant | H-Pro-OBzl.HCl | 6.53 g | N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1.Cl
reactant | WSC | 4.93 ml | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | BOC-Tyr(Bzl)-Pro-OBzl | 14.46 g, yield: 96.1% | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C33H38N2O6
